US07662771B2
5-[4-(2-hydroxy-4-methoxy-phenyl)-thiazol-2-yl]-pentanoic acid
Add a solution of LiOH.H2O (1.76 g, 41.9 mmol) in water (25 mL) to a rapidly stirred solution of 5-[4-(2-hydroxy-4-methoxy-phenyl)-thiazol-2-yl]-pentanoic acid methyl ester (2.69 g, 8.4 mmol) in dioxane (50 mL), stir at room temperature. After 1 hour, acidify to pH 1 with 5N HCl solution and cool under N2 in a refrigerator. Filter out solids and rinse with ice cold water. Dry solids in a vacuum oven overnight to afford the title compound (2.50 g, 96%). MS (IS) 308 (M+1)+.

reactant | LiOH.H2O | 41.9 mmol, 1.76 g | O[Li].O
reactant | 5-[4-(2-hydroxy-4-methoxy-phenyl)-thiazol-2-yl]-pentanoic acid methyl ester | 8.4 mmol, 2.69 g | COC(CCCCC=1SC=C(N1)C1=C(C=C(C=C1)OC)O)=O | C16H19NO4S
reactant | HCl | 5N | Cl | ClH
solvent | water | 25 mL | O | H2O
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 5-[4-(2-hydroxy-4-methoxy-phenyl)-thiazol-2-yl]-pentanoic acid | 2.50 g, 96% | OC1=C(C=CC(=C1)OC)C=1N=C(SC1)CCCCC(=O)O | C15H17NO4S
